US05955481
Preparation of 5-((5-(2-hydroxy-2-(2-phenyl-5-methyl-4-oxazolyl)ethoxy)-2-pyridyl)methyl)thiazolidin-2,4-dione (Compound No. (I-2a-3)
200 mg (0.47 mmol) of 5-((5-(2-oxo-2-(2-phenyl-5-methyl-4-oxazolyl)ethoxy)-2-pyridyl)methyl)thiazolidin-2,4-dione (Compound No. I-2a-1) was dissolved in 5 ml of methanol dehydrated with molecular sieve. To this solution, was added 21.5 mg of sodium borohydride, and the resultant solution was stirred at room temperature for 1 day. The reaction was terminated with a saturated aqueous solution of ammonium chloride, and the reaction mixture was extracted with chloroform. The reaction product thus obtained was washed with brine, and was dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the solvent was distilled off under a reduced pressure to obtain a residue, and the residue thus obtained was subjected to silica gel column chromatography (eluent: 10%--methanol/chloroform) to obtain 203 mg (quantitative) of pale brown powder of the aimed product (Compound No. I-2a-3).

reactant | 5-((5-(2-oxo-2-(2-phenyl-5-methyl-4-oxazolyl)ethoxy)-2-pyridyl)methyl)thiazolidin-2,4-dione | 0.47 mmol, 200 mg | O=C(COC=1C=CC(=NC1)CC1C(NC(S1)=O)=O)C=1N=C(OC1C)C1=CC=CC=C1 | C21H17N3O5S
reactant | sodium borohydride | 21.5 mg | [BH4-].[Na+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | methanol | 5 ml | CO | CH4O
product | 5-((5-(2-hydroxy-2-(2-phenyl-5-methyl-4-oxazolyl)ethoxy)-2-pyridyl)methyl)thiazolidin-2,4-dione | OC(COC=1C=CC(=NC1)CC1C(NC(S1)=O)=O)C=1N=C(OC1C)C1=CC=CC=C1 | C21H19N3O5S
